US07964607B2
(b) 5-amino-1-(2,2,2-trifluoroethyl)-1H-pyrazole-4-carboxamide
Following the procedure for the preparation of 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carboxamide but substituting 5-amino-1-(2,2,2-trifluoroethyl)-1H-pyrazole-4-carbonitrile provided the tile compound. 400 MHz 1H NMR (DMSO) δ 7.75 (s, 1H), 7.30 (brs, 1H), 6.78 (brs, 1H) 6.58 (m, 2H), 4.88 (m, 2H).

reactant | 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carboxamide | NC1=C(C=NN1C1=C(C=CC=C1)OC)C(=O)N | C11H12N4O2
reactant | 5-amino-1-(2,2,2-trifluoroethyl)-1H-pyrazole-4-carbonitrile | NC1=C(C=NN1CC(F)(F)F)C#N | C6H5F3N4
product | 5-amino-1-(2,2,2-trifluoroethyl)-1H-pyrazole-4-carboxamide | NC1=C(C=NN1CC(F)(F)F)C(=O)N | C6H7F3N4O
